US07622494B2
To the 2-bromo-6-cyclohex-2-en-1-ylaniline mixture (0.85 g, 3.4 mmol) above in dichloromethane (50 mL) was added sodium bicarbonate (2.3 g, 27 mmol) followed by iodine (3.5 g, 14 mmol). The reaction was stirred for 3 hours and then diluted with dichloromethane (100 mL). The organic phase was washed with a 10% w/w aqueous solution of sodium thiosulfate, washed with brine, and was dried by passing through a hydrophobic frit. The organic solution was concentrated to leave crude 8-bromo-1-iodo-2,3,4,4a,9,9a-hexahydro-1H-carbazole. MS m/z 378, 380 (M+1).

reactant | 2-bromo-6-cyclohex-2-en-1-ylaniline | 3.4 mmol, 0.85 g | BrC1=C(N)C(=CC=C1)C1C=CCCC1 | C12H14BrN
reactant | sodium bicarbonate | 27 mmol, 2.3 g | C([O-])(O)=O.[Na+]
reactant | iodine | 14 mmol, 3.5 g | II | I2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 8-bromo-1-iodo-2,3,4,4a,9,9a-hexahydro-1H-carbazole | BrC=1C=CC=C2C3CCCC(C3NC12)I | C12H13BrIN
